US07842686B2
5′-Nitro-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione
To a solution of conc. HNO3 (30 ml) at 0° C. was added 1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione (3 g) in portions. The cooling bath was removed and the reaction mixture was stirred at room temperature for 1.5 h. The reaction mixture was poured into ice and the precipitated product was filtered, washed with water and desiccated. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=248; tR=1.82.

reactant | 1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | 3 g | C1C2(CC3=CC=CC=C13)NC(NC2=O)=O | C11H10N2O2
reactant | HNO3 | 30 ml | [N+](=O)(O)[O-] | HNO3
product | 5′-Nitro-1′,3′-dihydrospiro[imidazolidine-4,2′-indene]-2,5-dione | [N+](=O)([O-])C=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H9N3O4
